US07378409B2
A solution of tert-butyl (1R,3S,4S)-4-benzyloxycarbonylamino-3-(prop-1-en-2-yl)cyclohexylcarbamate (1.1 g) in MeOH (10 mL) was charged with 10% Pd/C, Degussa (300 mg). The reaction flask was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 1 atm of H2 for 12 h and then filtered and concentrated to provide tert-butyl (1R,3S,4S)-4-amino-3-isopropylcyclohexylcarbamate (780 mg). MS (ES+)=257.3 (M+H)+.

reactant | tert-butyl (1R,3S,4S)-4-benzyloxycarbonylamino-3-(prop-1-en-2-yl)cyclohexylcarbamate | 1.1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=C)C | C22H32N2O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl (1R,3S,4S)-4-amino-3-isopropylcyclohexylcarbamate | 780 mg | N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C(C)C | C14H28N2O2
